US05438052
Methyl 5-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-2-carboxylate (380 mg) (1.33 mmol) are dissolved in 20 ml of methanol. After the addition of 296 mg (4 mmol) of sodium hydrogen sulphide monohydrate the mixture is stirred at 60° C. for 5 hours. The reaction mixture is concentrated and brought to pH 3 with dilute aqueous hydrochloric acid. The product is filtered off under suction, washed with water/methanol and crystallized from methanol. There are obtained 290 mg of methyl 5-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-2-carboxylate as a brown powder.

reactant | Methyl 5-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-2-carboxylate | 1.33 mmol, 380 mg | C(C)(=O)OCC1=NC=2N(C(=C1)Cl)N=C(N2)C(=O)OC | C10H9ClN4O4
reactant | sodium hydrogen sulphide monohydrate | 4 mmol, 296 mg | O.S.[Na]
solvent | methanol | 20 ml | CO | CH4O
product | methyl 5-(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine-2-carboxylate | 290 mg | OCC1=NC=2N(C(=C1)S)N=C(N2)C(=O)OC | C8H8N4O3S
